US08097610B2
Preparation of [3-[2-[1-(5-bromothiazole-2-yl)-4-pyrrolidine-1-ylpiperidine-4-yl]ethoxy]-5-chlorophenyl]acetic acid methyl ester
A mixture of 2-[1-(5-bromothiazole-2-yl)-4-pyrrolidine-1-ylpiperidine-4-yl]ethanol (1.30 g), (3-chloro-5-hydroxy phenyl)acetic acid (796 mg), tri-n-butylphosphine (0.99 mL), 1,1′-(azodicarbonyl)dipiperidine (1.00 g) and tetrahydrofuran (20 mL) was stirred at room temperature for 4 hours. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (1.45 g). Yield: 74%.

reactant | 2-[1-(5-bromothiazole-2-yl)-4-pyrrolidine-1-ylpiperidine-4-yl]ethanol | 1.30 g | BrC1=CN=C(S1)N1CCC(CC1)(N1CCCC1)CCO | C14H22BrN3OS
reactant | (3-chloro-5-hydroxy phenyl)acetic acid | 796 mg | ClC=1C=C(C=C(C1)O)CC(=O)O | C8H7ClO3
reactant | tri-n-butylphosphine | 0.99 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.00 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [3-[2-[1-(5-bromothiazole-2-yl)-4-pyrrolidine-1-ylpiperidine-4-yl]ethoxy]-5-chlorophenyl]acetic acid methyl ester | 1.45 g, Yield: 74% | COC(CC1=CC(=CC(=C1)Cl)OCCC1(CCN(CC1)C=1SC(=CN1)Br)N1CCCC1)=O | C23H29BrClN3O3S
